US03988300
Repeating Example 21 in every detail except that a chlorobenzene solution of 2-chloro-4-nitrobenzoic acid was employed in lieu of the benzene solution of the same, there is obtained a 50% yield of 2,4'-dichloro-4-nitrobenzophenone in good yield and purity having a melting point of 117° - 117.5° C.

reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
reactant | 2-chloro-4-nitrobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,4'-dichloro-4-nitrobenzophenone | 50% yield | ClC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC(=C1)[N+](=O)[O-] | C13H7Cl2NO3
